US04584193
Synthesis of Sitophilure (Method B).
A 1-liter, 2-necked flask equipped with a dropping funnel, thermometer, and magnetic stirrer was charged with 344.0 g. (4 moles) of freshly distilled 3-pentanone. After cooling the apparatus to 15° C., an addition was made of 30.6 ml. of 16.8% (w/w) potassium hydroxide in methanol. This was followed by dropwise addition over 4 hrs. of 58.0 g. (1 mole) of freshly distilled propionaldehyde mixed with another 172.0-g. lot of 3-pentanone. Stirring was continued for an additional 30 min. after which the base (KOH) was neutralized with 3.5 g. of anhydrous oxalic acid. The solution was filtered and then distilled under vacuum to remove unreacted 3-pentanone and methanol. The aldol distilled at 70° C. (0.45 mm.) and yielded 66.7 g. (46% based on propionaldehyde). The distribution of R*S* and R*R* diastereomers was approximately 1:1.

reactant | 3-pentanone | CCC(CC)=O | C5H10O
reactant | potassium hydroxide | [OH-].[K+]
reactant | propionaldehyde | C(CC)=O | C3H6O
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | methanol | CO | CH4O
product | Sitophilure | CC[C@H]([C@H](C)C(=O)CC)O | C8H16O2
